US07906504B2
A solution of 2-[3-(3-chlorophenyl)-7-methoxy-1-oxo-1H-isoquinolin-2-yl]-N-isopropylacetamide (886 mg, 2.30 mmol) in dry DCM (25 mL) was cooled to −78° C. and a solution of BBr3 (1 M in DCM, 20.3 mL, 20.3 mmol) was added dropwise. After 1 h, the cooling bath was removed and the mixture was allowed to stir an additional 17.5 h, then cooled to 0° C. and quenched by dropwise addition of sat. NaHCO3 (aq.) (15 mL). The aqueous mixture was extracted with IPA:DCM (1:3, v/v) (4×25 mL). The combined organic extracts were washed with brine (25 mL), dried (MgSO4) and concentrated to give the crude product, which was recrystallized from EtOH to give pure 2-[3-(3-chlorophenyl)-7-hydroxy-1-oxo-1H-isoquinolin-2-yl]-N-isopropylacetamide (INTERMEDIATE III.7) (530 mg, 1.43 mmol, 62%) as white solid.

reactant | 2-[3-(3-chlorophenyl)-7-methoxy-1-oxo-1H-isoquinolin-2-yl]-N-isopropylacetamide | 2.30 mmol, 886 mg | ClC=1C=C(C=CC1)C=1N(C(C2=CC(=CC=C2C1)OC)=O)CC(=O)NC(C)C | C21H21ClN2O3
reactant | BBr3 | 20.3 mmol, 1 M, 20.3 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-(3-chlorophenyl)-7-hydroxy-1-oxo-1H-isoquinolin-2-yl]-N-isopropylacetamide | 1.43 mmol, 530 mg, 62% | ClC=1C=C(C=CC1)C=1N(C(C2=CC(=CC=C2C1)O)=O)CC(=O)NC(C)C | C20H19ClN2O3
